US05780642
N-[2-(4-Chlorophenylthio)-1,1-dimethylethyl]-3-(imidazol-1-yl)propylamine dihydrochloride (1.0 g) was added in one portion to a stirred solution of sodium periodate (0.54 g) in aqueous methanol (15 ml of a 1:1 mixture) at 5°-10° C. The mixture was stirred at ambient temperature for 24 hours and then evaporated to dryness. 5M Sodium hydroxide solution was added to the residue and the mixture extracted with dichloromethane to give an oil which was dissolved in ether containing a small amount of absolute alcohol and treated with ethereal hydrogen chloride. The mixture was filtered to give N-[2-(4-chlorophenylsulphinyl)-1,1-dimethylethyl]-3-(imidazol-1-yl)propylamine dihydrochloride, m.p. 208°-211° C.

reactant | N-[2-(4-Chlorophenylthio)-1,1-dimethylethyl]-3-(imidazol-1-yl)propylamine dihydrochloride | 1.0 g | Cl.Cl.ClC1=CC=C(C=C1)SCC(C)(C)NCCCN1C=NC=C1
reactant | sodium periodate | 0.54 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | N-[2-(4-chlorophenylsulphinyl)-1,1-dimethylethyl]-3-(imidazol-1-yl)propylamine dihydrochloride | Cl.Cl.ClC1=CC=C(C=C1)S(=O)CC(C)(C)NCCCN1C=NC=C1 | InChI=1S/C16H22ClN3OS.2ClH/c1-16(2,19-8-3-10-20-11-9-18-13-20)12-22(21)15-6-4-14(17)5-7-15;;/h4-7,9,11,13,19H,3,8,10,12H2,1-2H3;2*1H
